US06548667B2
Preparation of (2R)-3-methyl-2-[(2-phenylthiobenzthiazol-6-sulfonyl)amino]butanoic Acid Methylester
(2R)-3-methyl-2-[(2-chlorobenzthiazol-6-sulfonyl)amino]butanoic acid methylester (0.154 mg, 0.44 mmol) prepared in a similar manner as in Example 20 was dissolved in MeCN (3 mL) and added solid K2CO3 (0.1 mg, 1.6 equi.). Thiophenol (0.055 mL, 1.2 equi.) was also added and the reaction solution was refluxed for 3 hours. When starting material was disappeared, H2O/ethylacetate (5 mL/10 mL) was added for extraction of product. The extracted product in organic phase was washed with NaCl solution, dried over MgSO4 and distilled under reduced pressure. The extracted product was crystallized with n-hexane/ethylacetate (3/1) solution to prepare the titled compound, (2R)-3-methyl-2-[(2-phenylthiobenzthiazol-6-sulfonyl)amino]butanoic acid methylester (190 mg, 99%).

reactant | (2R)-3-methyl-2-[(2-chlorobenzthiazol-6-sulfonyl)amino]butanoic acid methylester | 0.44 mmol, 0.154 mg | COC([C@@H](C(C)C)NS(=O)(=O)C1=CC2=C(N=C(S2)Cl)C=C1)=O | C13H15ClN2O4S2
reactant | K2CO3 | 0.1 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Thiophenol | 0.055 mL | C1(=CC=CC=C1)S | C6H6S
reactant | H2O ethylacetate | 5 mL | O.C(C)OC(C)=O
solvent | MeCN | 3 mL | CC#N | C2H3N
product | (2R)-3-methyl-2-[(2-phenylthiobenzthiazol-6-sulfonyl)amino]butanoic Acid Methylester | COC([C@@H](C(C)C)NS(=O)(=O)C1=CC2=C(N=C(S2)SC2=CC=CC=C2)C=C1)=O | C19H20N2O4S3
